US06046232
Synthesis of α-(3,4Diethoxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 11 using 3,4-diethoxybenzaldehyde and N-tert-butylhydroxylamine. The title compound was isolated in 93.7% yield as a solid, m.p. 57.9° C.

reactant | 3,4-diethoxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1OCC | C11H14O3
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(3,4Diethoxyphenyl)-N-tert-butylnitrone | C(C)OC=1C=C(C=CC1OCC)C=[N+]([O-])C(C)(C)C | C15H23NO3
